US05248810
7-Oxooctanoic acid was prepared by treatment of 2-acetyl cyclohexanone with aqueous potassium hydroxide (S. Hunig et al; Chem Ber 91, 129-133 (1958)).

reactant | 2-acetyl cyclohexanone | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | potassium hydroxide | [OH-].[K+]
product | 7-Oxooctanoic acid | O=C(CCCCCC(=O)O)C | C8H14O3
